US07560569B2
In a similar manner to Example 133, 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (150 mg) and 2-methyl-4-trifluoromethylaniline (2152 μL) were used to obtain 4-tert-butoxycarbonylamino-N-(2-methyl-4-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide (92.5 mg).

reactant | 4-tert-butoxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 150 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C14H23NO4
reactant | 2-methyl-4-trifluoromethylaniline | 2152 μL | CC1=C(N)C=CC(=C1)C(F)(F)F | C8H8F3N
product | 4-tert-butoxycarbonylamino-N-(2-methyl-4-trifluoromethylphenyl)bicyclo[2.2.2]octane-1-carboxamide | 92.5 mg | C(C)(C)(C)OC(=O)NC12CCC(CC1)(CC2)C(=O)NC2=C(C=C(C=C2)C(F)(F)F)C | C22H29F3N2O3
